* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2370-2.5.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 12
L1 N002 OUT 10µ Ipk=1.84 Rser=0.056 Rpar=942 Cpar=0 mfg="Coilcraft" pn="MSS6132-103"
C1 OUT 0 10µ
R1 OUT N001 10K
X§U1 IN IN IN IN N002 OUT N001 0 ADP2370 IPSM=420m Rt=340000 Rb=160000 C1=1.6p Rc1=300k R3=5.92k Rshort=100MEG PD=0
Rload OUT 0 20
.tran 500u startup
.lib ADP2370.sub
.backanno
.end
