* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2503-3.5.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N001 N002 1.5µ Rser=80m
C1 OUT 0 10µ
V1 IN 0 3.3
Rload OUT 0 50
X§U1 N001 N002 OUT IN IN 0 OUT NC_01 ADP2503_4 Vout=3.5 Limit=1.2 R2=100k
.tran 400u startup
* PSM and forced PWM modes are modelled\nClock Sync is not modelled
.lib ADP2503_4.sub
.backanno
.end
