* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP7156-1.8.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 2.4
C1 OUT 0 10µ
C2 N003 0 1µ
C3 N004 0 1µ
C4 N002 0 1µ
R1 IN N001 100K
Rload OUT 0 1.8
X§U1 OUT MP_01 OUT N002 N001 N003 N003 N004 IN 0 ADP7156_7 Vreg=2.111 Vref=1.816
.tran 5m startup
.lib ADP7156_7.sub
.backanno
.end
