* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP7156-2.0.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 3
C1 OUT 0 10µ
C2 N003 0 1µ
C3 N004 0 1µ
C4 N002 0 1µ
R1 IN N001 100K
Rload OUT 0 2
X§U1 OUT MP_01 OUT N002 N001 N003 N003 N004 IN 0 ADP7156_7 Vreg=2.611 Vref=2.016
.tran 5m startup
.lib ADP7156_7.sub
.backanno
.end
