* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP7182-1.8.asc
* Generated by LTspice 24.1.9 for Windows.
C1 IN 0 2.2µ
C2 OUT 0 2.2µ
V1 IN 0 -8
V2 N001 0 PULSE(0 2 200u 1n 1n 10m)
R1 OUT 0 50
X§U1 OUT MP_01 MP_02 N001 MP_03 0 IN ADP7182-x.x Rset=360k
.tran 1m
.lib ADP7182-x.x.sub
.backanno
.end
