* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP7185-1.5.asc
* Generated by LTspice 24.1.9 for Windows.
C2 OUT 0 4.7µ Rser=5m
V1 IN 0 -2
R3 OUT 0 3
C1 N001 N002 10n
C3 N001 0 1µ
C4 N003 0 1µ
X§U1 OUT OUT N001 N002 IN 0 N003 IN ADP7185-1.5
.tran 200m startup
.lib ADP7185-1.5.sub
.backanno
.end
