* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1071-1.asc
* Generated by LTspice 24.1.9 for Windows.
L2 N002 OUT 25µ Rser=80m
L1 IN N001 100µ Rser=.28
M§Q1 N001 N003 N004 N004 Si4488DY
R1 N004 0 8m
M§Q3 N002 N005 0 0 Si4480DY
C5 OUT 0 330µ Rser=15m
C8 OUT 0 1µ Rser=1m
V1 IN 0 36
C9 N014 0 22n
R10 N004 N006 1.2K
R11 N011 0 120K
Rload OUT 0 12
C2 0 N007 2.2µ
R2 N013 N012 50K
C3 N012 0 200p
C6 N013 0 10n
R3 OUT N008 8.87K
R5 N008 0 .976K
R6 OUT N009 8.87K
R7 N009 0 .976K
R4 N003 0 100K
X§U1 N003 0 N010 0 IN N006 N011 0 N014 N012 N009 N008 OUT N007 0 N005 ADP1071-1
V2 N010 0 8
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
K1 L1 L2 1
.tran 4.5m startup
.lib ADP1071-1.sub
.backanno
.end
