* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1614-650.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N006 N007 2k
C1 N007 0 22n
R3 N004 0 10k
R4 OUT N004 30.9k
V1 IN 0 3.3
L1 IN N001 4.7µ
C2 OUT 0 22µ
C3 N006 0 33p
Rload OUT 0 3.01
D1 N001 OUT MBRS340
R2 N003 0 66.5k
C4 IN 0 10µ
V2 N002 0 PWL(0 0 0.5m 0 0.51m 3.3)
C5 N005 0 47n
X§U2 N006 N004 N002 0 MP_01 N001 MP_02 IN N003 N005 ADP1614-650
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 12m
.lib ADP1614-650.sub
.backanno
.end
