* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5138-1.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 4.5
L1 N002 OUT1 1µ Rser=86m
C1 OUT1 0 10µ Rser=6m
Rload1 OUT1 0 13.2
L2 N003 OUT2 1µ Rser=86m
R3 OUT2 N004 1.62K
R4 N004 0 6.49K
C2 OUT2 0 10µ Rser=6m
Rload2 OUT2 0 2
L3 N005 OUT3 1µ Rser=86m
R5 OUT3 N006 5.36K
R6 N006 0 9.53K
C3 OUT3 0 10µ Rser=6m
Rload3 OUT3 0 2
C5 OUT5 0 1µ Rser=2m
Rload5 OUT5 0 9
R7 OUT1 N001 100K
L4 N007 OUT4 1µ Rser=86m
C4 OUT4 0 10µ Rser=6m
Rload4 OUT4 0 2
X§U1 IN N002 0 0 N003 IN N004 IN N001 OUT1 N008 OUT5 IN IN N006 IN N005 0 0 N007 IN OUT4 IN 0 0 IN IN OUT1 ADP5138-1
R1 OUT5 N008 18.7K
R2 N008 0 15K
.tran 1.4m startup
.lib ADP5138-1.sub
.backanno
.end
