* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5138-2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 4.5
L1 N002 OUT1 1µ Rser=86m
L2 N004 OUT2 1µ Rser=86m
R3 OUT2 N005 1.62k
R4 N005 0 6.49k
Rload2 OUT2 0 2
L3 N006 OUT3 1µ Rser=86m
R5 OUT3 N007 5.36k
R6 N007 0 9.53k
Rload3 OUT3 0 2
R9 OUT5 N010 18.7k
R10 N010 0 15k
C5 OUT5 0 1µ Rser=2m
Rload5 OUT5 0 9
R11 OUT1 N001 100K
L4 N008 OUT4 1µ Rser=86m
X§U1 IN N002 0 0 N004 IN N005 IN N001 OUT1 N010 OUT5 IN IN N007 IN N006 0 0 N008 IN N009 IN 0 0 IN IN N003 ADP5138-2
R1 OUT1 N003 35.7k
R2 N003 0 11.5k
C1 OUT1 0 10µ Rser=6m
Rload1 OUT1 0 13.2
R7 OUT4 N009 19.6k
R8 N009 0 28.7k
C2 OUT2 0 10µ Rser=6m
Rload4 OUT4 0 2
C3 OUT3 0 10µ Rser=6m
C4 OUT4 0 10µ Rser=6m
.tran 1.4m startup
.lib ADP5138-2.sub
.backanno
.end
